US06800651B2
N-(4-(3-Benzyloxyphenyl)-N-(2,2,2-trifluoroethanesulfonyl)pyrid-3-ylmethylamine
A solution of N-(4-(3-benzyloxyphenyl)pyridin-3-ylmethylamine (1.0 equiv.) in 2:1 DCE/Pyridine (0.15 M) was cooled to 0° C. and treated with 2,2,2-trifluoroethanesulfonyl chloride (1.8 equiv.). The mixture was allowed to warm to ambient temperature and stir overnight. The reaction was treated with anhydrous potassium carbonate, stirred for 40 min, and filtered. The filtrate was purified via preparative HPLC eluting with 70:30 to 60:40 DCM/ethyl acetate, evaporated, and then triturated with diethyl ether to give the title compound. Anal Calcd for C21H19F3N2O3S: C, 57.79; H, 4.39; N, 6.42. Found: C, 57.60; H, 4.47; N, 6.41. 1H NMR (400 MHz) 3.77 (2H, q, J=9.0 Hz), 4.86 (2H, d), 4.99 (2H, d), 6.82 (2H, m), 6.95 (1H, m), 7.25 (2H, m), 7.34-7.40 (5H, m), 7.67 (1H, td, J=2.0, 8.0 Hz), 8.32 (1H, bs), 8.50 (1H, d, J=4.0 Hz). MS found 437.1 [M+H]+

reactant | 4-(3-benzyloxyphenyl)pyridin-3-ylmethylamine | 1.0 equiv. | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=C(C=NC=C1)CN | C19H18N2O
reactant | 2,2,2-trifluoroethanesulfonyl chloride | 1.8 equiv. | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DCE Pyridine | 0.15 M | ClCCCl.N1=CC=CC=C1
product | 4-(3-Benzyloxyphenyl)-N-(2,2,2-trifluoroethanesulfonyl)pyrid-3-ylmethylamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=C(C=NC=C1)CNS(=O)(=O)CC(F)(F)F | C21H19F3N2O3S
